US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one (2.15 g, 6.95 mmol) by reaction with m-CPBA (1.71 g, 7.64 mmol) to provide 5-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one followed by reaction with p-toluenesulfonyl chloride (1.46 g, 7.64 mmol) and ammonium hydroxide solution (10 mL) to provide 5-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one as an off-white solid, mp 173-176° C.

reactant | 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one | 6.95 mmol, 2.15 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(C)=O | C19H23N3O
reactant | m-CPBA | 7.64 mmol, 1.71 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 5-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-one | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCC(C)=O | C19H23N3O2
